US04310671
reacting 2,6-dichloropyridine with nitric acid in the presence of about 10-65% strength by weight oleum to produce a reaction mixture comprising 2,6-dichloro-3-nitropyridine.

reactant | 2,6-dichloropyridine | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
product | 2,6-dichloro-3-nitropyridine | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
